US07576074B2
2-Morpholin-4-ylethanethioamide (0.403 g, 2.52 mmol), 1,3-dichloroacetone (0.353 g, 2.77 mmol) and sodium bicarbonate (0.234 g, 2.77 mmol) was stirred in 1,2-dichloroethane (4 mL) at room temperature for 74 h at which point 1,4-dioxane was added in an attempt to improve solubility and the mixture was stirred for a further 30 h. The reaction mixture was filtered and the filter cake was washed with 1,2-dichloroethane. The filtrate was added dropwise to a cooled (ice bath) solution of thionyl chloride (0.202 mL, 2.77 mmol) in 1,2-dichloroethane (3 mL). The solution was stirred at 70° C. for 0.5 h and then cooled to room temperature. The brown mixture was filtered and washed with 1,2-dichloroethane to afford 4-{[4-(chloromethyl)-1,3-thiazol-2-yl]methyl}morpholine hydrochloride as a very pale brown solid (0.024 g, 0.091 mmol, 4% yield). 1H NMR (400 MHz; D2O): 3.29-3.39 (m, 4H); 3.78-3.92 (m, 4H); 4.63 (s, 2H); 4.67 (s, 2H); 7.67 (s, 1H); MS (EI) for C9H13ClN2OS: 233 (MH+).

reactant | 2-Morpholin-4-ylethanethioamide | 2.52 mmol, 0.403 g | N1(CCOCC1)CC(N)=S | C6H12N2OS
reactant | 1,3-dichloroacetone | 2.77 mmol, 0.353 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sodium bicarbonate | 2.77 mmol, 0.234 g | C([O-])(O)=O.[Na+]
reactant | thionyl chloride | 2.77 mmol, 0.202 mL | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-{[4-(chloromethyl)-1,3-thiazol-2-yl]methyl}morpholine hydrochloride | Cl.ClCC=1N=C(SC1)CN1CCOCC1 | InChI=1S/C9H13ClN2OS.ClH/c10-5-8-7-14-9(11-8)6-12-1-3-13-4-2-12;/h7H,1-6H2;1H
